US07495018B2
4-[2-(1-tert-butoxycarbonylpiperidin-4-yl)-4-(3-chlorophenyl)-1,3-thiazol-5-yl]-2-pyridylamine
A solution of 2-(2-amino-4-pyridyl)-2-bromo-1-(3-chlorophenyl)ethanone hydrobromide (2.74 g, 8.36 mmol) and 1-tert-butoxycarbonylpiperidine-4-carbothioamide in N,N-dimethylformamide (50 mL) was stirred at room temperature for 3 hours. Aqueous sodium hydrogen carbonate was added to the reaction mixture and extracted with ethyl acetate. The extracts were washed with water, dried, and concentrated. The residue was purified by silica gel column chromatography (ethyl acetate) and then purified by column chromatography (filler: Chromatorex NH DM1020 (trade name, manufactured by Fuji Silysia Chemical Ltd.), ethyl acetate). The obtained crude crystalline was recrystallized from ethyl acetate-hexane to give a title compound (1.94 g, yield 50%).

reactant | 2-(2-amino-4-pyridyl)-2-bromo-1-(3-chlorophenyl)ethanone hydrobromide | 8.36 mmol, 2.74 g | Br.NC1=NC=CC(=C1)C(C(=O)C1=CC(=CC=C1)Cl)Br
reactant | 1-tert-butoxycarbonylpiperidine-4-carbothioamide | C(C)(C)(C)OC(=O)N1CCC(CC1)C(N)=S | C11H20N2O2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 4-[2-(1-tert-butoxycarbonylpiperidin-4-yl)-4-(3-chlorophenyl)-1,3-thiazol-5-yl]-2-pyridylamine | 1.94 g, yield 50% | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1SC(=C(N1)C1=CC(=CC=C1)Cl)C1=CC(=NC=C1)N | C24H27ClN4O2S
